US06927228B2
(b) 9H-Fluoren-9-ylmethyl [4′-(2,4-dioxo-thiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-methylcarbamate
In a manner similar to that of Example 1(g), starting with 500 mg (0.9 mmol) of 9H-fluoren-9-ylmethyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate in 10 ml of dioxane, 200 mg (40%) of the desired product, with a melting point of 94° C., are obtained.

reactant | 9H-fluoren-9-ylmethyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate | 0.9 mmol, 500 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C33H26N2O4S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 9H-Fluoren-9-ylmethyl [4′-(2,4-dioxo-thiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-methylcarbamate | 200 mg, 40% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C33H28N2O4S
